US06562828B1
7-Methoxy-2-trifluoromethanesulfonyloxynaphthalene
To a solution of 2-hydroxy-7-methoxynaphthalene (12.34 g) and triethylamine (9.87 ml) in chloroform (185 ml) was added trifluoromethanesulfonic anhydride (20 g) with ice-cooling, and the mixture was stirred at the same temperature for 30 min. After completion of the reaction, aqueous sodium hydrogencarbonate was added and the mixture was extracted with chloroform and washed successively with water and saturated brine. The organic layer was dried over anhydrous magnesium sulfate and the solvent was evaporated. The obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1) and dried under reduced pressure to give the title compound (15.36 g).

reactant | 2-hydroxy-7-methoxynaphthalene | 12.34 g | OC1=CC2=CC(=CC=C2C=C1)OC | C11H10O2
reactant | triethylamine | 9.87 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 20 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 185 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-Methoxy-2-trifluoromethanesulfonyloxynaphthalene | 15.36 g | COC1=CC=C2C=CC(=CC2=C1)OS(=O)(=O)C(F)(F)F | C12H9F3O4S
